US07528147B2
0.11 g of potassium carbonate and 0.14 ml of morpholine are added to a solution of 0.24 g of 2-[1-methyl-5-methoxy-6-(2-iodoethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 24 ml of acetonitrile, under an inert argon atmosphere at a temperature in the region of 20° C. The reaction medium is heated at 60° C. for 24 hours. After cooling, the reaction medium is concentrated under reduced pressure. The oil obtained is taken up with 10 ml of water and 10 ml of ethyl acetate. After separation by settling out, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The residue obtained is purified by flash-pack chromatography (silica, 30/70 by volume ethyl acetate/cyclohexane as eluents). The fractions containing the product are concentrated under reduced pressure. 0.24 g of 2-[1-methyl-5-methoxy-6-(2-morpholin-4-ylethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is thus obtained, the characteristics of which are as follows:

reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.14 ml | N1CCOCC1 | C4H9NO
reactant | 2-[1-methyl-5-methoxy-6-(2-iodoethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.24 g | CN1C=C(C2=CC(=C(C=C12)OCCI)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H24IN3O4S
reactant | water | 10 ml | O | H2O
solvent | acetonitrile | 24 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-[1-methyl-5-methoxy-6-(2-morpholin-4-ylethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.24 g | CN1C=C(C2=CC(=C(C=C12)OCCN1CCOCC1)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C30H32N4O5S
